US07384934B2
(S)-6,7-Difluoro 10-[3-(2-methoxy-ethyl)-4-methyl-piperazin-1-yl]-2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulene dihydrochloride
Using a method similar to the example (S)-6-fluoro 10-[3-(2-methoxy-ethyl)-4-methyl-piperazin-1-yl]-2-ethyl-4H-3-thia-4,9-diaza-benzo[f]azulene dihydrochloride, using 6,7-difluoro-2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulen-10-ylamine hydrochloride and (S)-2-(2-methoxy)ethylpiperazine: 1H NMR (DMSO-d6): δ 11.7110 (2H, bs), 9.3793 (1H, bs), 7.3795 (1H, bs), 7.0701 (1H, bt), 6.6326 (1H, bs), 4.1000 (3H, bm), 3.6041 (3H, bs), 3.4347 (3H, bs), 3.2081 (3H, bs), 2.8371 (3H, bs), 2.3319 (3H, bs), 2.2842 (1H, bm), 1.8410 (1H, bs); Mass Spectrum M+H=407.1.

reactant | (S)-6-fluoro 10-[3-(2-methoxy-ethyl)-4-methyl-piperazin-1-yl]-2-ethyl-4H-3-thia-4,9-diaza-benzo[f]azulene dihydrochloride | Cl.Cl.FC=1C=CC2=C(NC=3SC(=CC3C(=N2)N2C[C@@H](N(CC2)C)CCOC)CC)C1
reactant | 6,7-difluoro-2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulen-10-ylamine hydrochloride | Cl.FC=1C(=CC2=C(NC=3SC(=CC3C(=N2)N)C)C1)F
product | (S)-6,7-Difluoro 10-[3-(2-methoxy-ethyl)-4-methyl-piperazin-1-yl]-2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulene dihydrochloride | Cl.Cl.FC=1C(=CC2=C(NC=3SC(=CC3C(=N2)N2C[C@@H](N(CC2)C)CCOC)C)C1)F | InChI=1S/C20H24F2N4OS.2ClH/c1-12-8-14-19(26-6-5-25(2)13(11-26)4-7-27-3)23-17-9-15(21)16(22)10-18(17)24-20(14)28-12;;/h8-10,13,24H,4-7,11H2,1-3H3;2*1H/t13-;;/m0../s1
